US07902252B2
2.54. Synthesis of methyl 4-(biphenyl-4-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (200 mg, 1.12 mmol) was reacted with (biphenyl-4-ylmethyl)magnesium bromide (0.25 M in diethyl ether, 17.9 mL, 4.46 mmol) according to General Procedure 3. The resulting crude product was converted to the title compound by hydrogenation according to General Procedure 6 (with 10% Pd/C). The crude product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-40% EtOAc/heptane to afford the title compound, 122 mg. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.08-2.19 (m, 1H), 2.51-2.72 (m, 3H), 2.75-2.87 (m, 2H), 3.26-3.35 (m, 1H), 3.76 (s, 3H), 6.34 (s, 1H), 7.24-7.28 (m, 2H), 7.28-7.33 (m, 1H), 7.38-7.44 (m, 2H), 7.51-7.56 (m, 2H), 7.59-7.63 (m, 2H); LCMS-MS (ESI+) 354.0 (M+Na).

reactant | methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 1.12 mmol, 200 mg | O=C1CCC=2NC(=CC21)C(=O)OC | C9H9NO3
reactant | (biphenyl-4-ylmethyl)magnesium bromide | 4.46 mmol, 0.25 M, 17.9 mL | C1(=CC=C(C=C1)C[Mg]Br)C1=CC=CC=C1
catalyst | Pd/C | [Pd] | Pd
product | methyl 4-(biphenyl-4-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | C1(=CC=C(C=C1)CC1CCC=2NC(=CC21)C(=O)OC)C2=CC=CC=C2 | C22H21NO2
